US08669381B2
Step 3: Synthesis of 4-methoxybenzene-1,3-diol
To a solution of 4-(formyloxy)-2-methoxyphenyl acetate (16 g, 76 mmol) in THF (50 mL)/H2O (50 mL) was added LiOH (7.7 g, 184.2 mmol). The reaction was stirred at room temperature overnight. The volatiles were removed under reduced pressure. The residue was extracted with EA (50 mL×3). The organic phase was washed with brine (50 mL), dried over Na2SO4, filtrated and concentrated in vacuo to give black oil, which was purified by silica gel column (PE:EA=3:1) to afford 4.8 g of product (40%) as a brown solid.

reactant | 4-(formyloxy)-2-methoxyphenyl acetate | 76 mmol, 16 g | C(C)(=O)OC1=C(C=C(C=C1)OC=O)OC | C10H10O5
reactant | H2O | 50 mL | O | H2O
reactant | LiOH | 184.2 mmol, 7.7 g | [Li+].[OH-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-methoxybenzene-1,3-diol | 4.8 g, 40% | COC1=C(C=C(C=C1)O)O | C7H8O3
